US07732448B2
0.12 g of sodium hydride (60% oil suspension) was suspended in 2 ml of tetrahydrofuran. 0.18 g of 3,3-dimethylpiperidine hydrochloride and 0.20 g of 4-(2-butynyloxy)-6-chloro-5-fluoropyrimidine were added therein, and the mixture was stirred for 1 hour at 60%. After the reaction mixture was cooled to near room temperature, a saturated ammonium chloride aqueous solution was added therein, and the mixture was extracted with tert-butyl methyl ether three times. The organic layers were washed with a saturated sodium chloride aqueous solution, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to obtain 0.05 g of 4-(2-butynyloxy)-6-(3,3-dimethylpiperidino)-5-fluoropyrimidine (hereinafter, referred to as Compound (32)).

reactant | sodium hydride | 0.12 g | [H-].[Na+]
reactant | 3,3-dimethylpiperidine hydrochloride | 0.18 g | Cl.CC1(CNCCC1)C
reactant | 4-(2-butynyloxy)-6-chloro-5-fluoropyrimidine | 0.20 g | C(C#CC)OC1=NC=NC(=C1F)Cl | C8H6ClFN2O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 4-(2-butynyloxy)-6-(3,3-dimethylpiperidino)-5-fluoropyrimidine | 0.05 g | C(C#CC)OC1=NC=NC(=C1F)N1CC(CCC1)(C)C | C15H20FN3O
